US04954518
3-Acetyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was reacted with bromine to obtain 3-(2-bromoacetyl)-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one. It was reacted with thioformamide to obtain 7-methylsulfonylamino-6-phenoxy-3-(thiazol-4-yl)-4H-1-benzopyran-4-one.

reactant | 3-Acetyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | C(C)(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C18H15NO6S
reactant | bromine | BrBr | Br2
product | 3-(2-bromoacetyl)-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | BrCC(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C18H14BrNO6S
